US07294622B2
b. Methyl 2-{[(benzyloxy)carbonyl]amino}-3-({2-[(tert-butoxycarbonyl)amino]ethyl}thio)-3-phenylpropanoate (7a)
Using a method similar to that described in Example 1, part b (Method B) a solution of tert-butyl N-(2-mercaptoethyl)carbamate (2.4 mL), methyl (2Z)-2-{[(benzyloxy)carbonyl]amino}-3-phenylprop-2-enoate (0.87 g), triethylamine (0.39 mL) and methanol (15 mL) was stirred at RT for 3 days. Removal of the solvent and chromatograpy of the resultant crude oil on silica gel (10% to 25% ethyl acetate/hexanes) returned the title compound as a viscous oil (1.22 g, 90%). The proton NMR displayed a mixture of diastereomers of approximate ratio 7:3; the major diastereomer is reported. 1HNMR (300 MHz, CDCl3) δ 1.41 (s, 9H), 2.48 (t, 2H), 3.19 (br, 2H), 3.65 (s, 3H), 4.12 (q, 1H), 4.35 (t, 1H), 4.73 (t, 2H), 5.09 (d, 2H), 7.27-7.34 (m, 10H). MS APCI, m/z=389(M−t-BuOCO)+. HPLC Method A: 3.47 min.

reactant | tert-butyl N-(2-mercaptoethyl)carbamate | 2.4 mL | SCCNC(OC(C)(C)C)=O | C7H15NO2S
reactant | methyl (2Z)-2-{[(benzyloxy)carbonyl]amino}-3-phenylprop-2-enoate | 0.87 g | C(C1=CC=CC=C1)OC(=O)N\C(\C(=O)OC)=C/C1=CC=CC=C1 | C18H17NO4
reactant | triethylamine | 0.39 mL | C(C)N(CC)CC | C6H15N
solvent | methanol | 15 mL | CO | CH4O
product | Methyl 2-{[(benzyloxy)carbonyl]amino}-3-({2-[(tert-butoxycarbonyl)amino]ethyl}thio)-3-phenylpropanoate | C(C1=CC=CC=C1)OC(=O)NC(C(=O)OC)C(C1=CC=CC=C1)SCCNC(=O)OC(C)(C)C | C25H32N2O6S
